US05310743
b) (2R*,4S*)-N-Acetyl-1-(3,5-dimethylbenzoyl)-2-phenyl-4-piperidinamine
A solution of 496 mg (1.41 mmol) of (2R*,4S*)-N-acetyl-1-benzyloxycarbonyl-2-phenyl-4-piperidinamine in 30 ml of ethanol and 8 ml of 1N hydrochloric acid is mixed with 50 mg of 10% Pd/C catalyst and stirred under a hydrogen atmosphere until no more hydrogen is taken up. The catalyst is removed by filtration through diatomaceous earth, and the filtrate is evaporated to dryness under reduced pressure. The residue is taken up in 5 ml of dichloromethane and 5 ml of 10% strength aqueous sodium bicarbonate solution and, while stirring at 0°, 285 mg (1.69 mmol) of 3,5-dimethylbenzoyl chloride are added slowly over the course of 1 hour. The reaction mixture is extracted with dichloromethane. The organic phase is separated off, dried over sodium sulfate and evaporated to dryness under reduced pressure. The title compound crystallises from ethyl acetate; melting point 201°-203°; CI-MS: (M+H)+=351.

reactant | (2R*,4S*)-N-acetyl-1-benzyloxycarbonyl-2-phenyl-4-piperidinamine | 1.41 mmol, 496 mg | C(C)(=O)N[C@@H]1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C21H24N2O3
reactant | hydrogen | [H][H] | H2
reactant | 3,5-dimethylbenzoyl chloride | 1.69 mmol, 285 mg | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1N, 8 ml | Cl | ClH
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | (2R*,4S*)-N-Acetyl-1-(3,5-dimethylbenzoyl)-2-phenyl-4-piperidinamine | C(C)(=O)N[C@@H]1C[C@@H](N(CC1)C(C1=CC(=CC(=C1)C)C)=O)C1=CC=CC=C1 | C22H26N2O2
